US07067517B2
Methyl-phenyl-carbamic acid 3-(4-methoxy-phenyl)-4-methyl-2-oxo-2H-chromen-7-yl ester
The title compound (90 mg, 43% yield, white solid) was prepared from 7-hydroxy-3-(4-methoxy-phenyl)-4-methyl-chromen-2-one (141 mg, 0.50 mmol) and 1-methyl-3-(methyl-phenyl-carbamoyl)-3H-imidazol-1-ium iodide (175 mg, 0.51 mmol).

reactant | 7-hydroxy-3-(4-methoxy-phenyl)-4-methyl-chromen-2-one | 0.50 mmol, 141 mg | OC1=CC=C2C(=C(C(OC2=C1)=O)C1=CC=C(C=C1)OC)C | C17H14O4
reactant | 1-methyl-3-(methyl-phenyl-carbamoyl)-3H-imidazol-1-ium iodide | 0.51 mmol, 175 mg | [I-].C[N+]1=CN(C=C1)C(N(C1=CC=CC=C1)C)=O
product | Methyl-phenyl-carbamic acid 3-(4-methoxy-phenyl)-4-methyl-2-oxo-2H-chromen-7-yl ester | 90 mg, 43% yield | COC1=CC=C(C=C1)C=1C(OC2=CC(=CC=C2C1C)OC(N(C1=CC=CC=C1)C)=O)=O | C25H21NO5
